US07875647B2
Crude 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonyl chloride (150 mg, 0.37 mmol) was dissolved in methylene chloride (3 ml) at 0° C., and triethyl amine (0.05 ml, 1.11 mmol) and cyclopropyl amine (0.03 ml, 0.56 mmol) were slowly added thereto. The resulting solution was stirred at room temperature for 3 hours, quenched with saturated ammonium chloride solution, extracted with ethyl acetate and filtrated with magnesium sulfate. The crude solution was evaporated and dried under a reduced pressure, to obtain 5-(4-chlorophenyl)-N-cyclopropyl-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxamide, which are not further purified. The resulting product was dissolved in benzene (3 ml), and phosphorus pentachloride (85 mg, 0.41 mmol) was added thereto at room temperature. The solution was stirred for 20 minutes, hydroazoic acid (1.0 ml, 2.0 M solution in benzene) was added thereto and maintained room temperature for overnight. For completion of the reaction, reaction solution was refluxed for 10 minutes and purified by reverse phase preparative HPLC, to obtain the title compound (83 mg, 50%) as white solid.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carbonyl chloride | 0.37 mmol, 150 mg | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)Cl)C | C17H10Cl4N2O
reactant | triethyl amine | 1.11 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropyl amine | 0.56 mmol, 0.03 ml | C1(CC1)N | C3H7N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-chlorophenyl)-N-cyclopropyl-1-(2,4-dichlorophenyl)-4-methyl-1H-pyrazole-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)NC1CC1)C | C20H16Cl3N3O
